US04921879
N-allyl-2-Azabicyclo[2.2.1]Hept-5-ene (V)
According to Variant A, 144 g (2.5 moles) of allyl amine are neutralized with hydrochloric acid solution, are reacted with 187.5 g (2.5 moles) of 40% formalin solution and 198 g (3.0 moles) of cyclopentadiene, and are worked up. After vacuum distillation 313 g of a product containing 98% (V) are obtained. This corresponds to a yield of 91% of theoretical.

reactant | allyl amine | 2.5 moles, 144 g | C(C=C)N | C3H7N
reactant | hydrochloric acid | Cl | ClH
reactant | formalin | 2.5 moles, 187.5 g | C=O | CH2O
reactant | cyclopentadiene | 3.0 moles, 198 g | C1=CC=CC1 | C5H6
product | N-allyl-2-Azabicyclo[2.2.1]Hept-5-ene | yield of 91% | C(C=C)N1C2C=CC(C1)C2 | C9H13N
